US04299618
Eighteen and fifty-four one-hundredths parts of tributylamine and 19.54 parts of 2,4-dichlorobenzyl chloride were placed in a 250 ml. glass stoppered flask. 70.8 parts of diethyl ether was added and the flask tightly stoppered and allowed to react at room temperature. After a considerable time an oil began to form and after 2 to 3 months, the product began to crystallize. At the end of six months, the crystals were filtered, washed with hexane and dried under vacuum. 16.7 parts of tributyl-2,4-dichlorobenzylammonium chloride was obtained, the compound having 3.33% nitrogen, the calculated value for nitrogen (for C19H32Cl3N) is 3.69%.

reactant | tributylamine | C(CCC)N(CCCC)CCCC | C12H27N
reactant | 2,4-dichlorobenzyl chloride | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
solvent | diethyl ether | C(C)OCC | C4H10O
product | tributyl-2,4-dichlorobenzylammonium chloride | [Cl-].C(CCC)[N+](CC1=C(C=C(C=C1)Cl)Cl)(CCCC)CCCC | InChI=1S/C19H32Cl2N.ClH/c1-4-7-12-22(13-8-5-2,14-9-6-3)16-17-10-11-18(20)15-19(17)21;/h10-11,15H,4-9,12-14,16H2,1-3H3;1H/q+1;/p-1
